US05416223
1-(Thenyloxycarbonyloxy)ethyl 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate
1-Chloroethyl thenyl carbonate (2.43 g, 11 mmol) was added at room temperature to a solution of potassium 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate (6.66 g, 10 mmol) and potassium iodide (0.17 g, 1 mmol) in dry DMF. After stirring at 50° C. for 5 hours and at room temperature for 4 days the solvent was removed at reduced pressure. The residue was suspended in chloroform (100 ml) and washed three times with a saturated sodium hydrogen carbonate solution and finally twice with water. After drying with magnesium sulfate the solution was evaporated to dryness. Yield: 7.9 g. Purity by HPLC: 88%. 1H-NMR (DMSO-d6): delta=1.64 (CHCH3); 1.65 (N(CH3)COCH3); 2.05 (NCOCH3 ); 2.95 (NCH3); 5.41 (CH2); 7.00 (CHCH3); 7.05; 7.25; 7.61 (thiophene); 10.11 ppm (NH).

reactant | 1-Chloroethyl thenyl carbonate | 11 mmol, 2.43 g | C(OC(C)Cl)(OCC1=CC=CS1)=O | C8H9ClO3S
reactant | potassium 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate | 10 mmol, 6.66 g | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)[O-])I)N(C)C(C)=O)I.[K+]
reactant | potassium iodide | 1 mmol, 0.17 g | [I-].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(Thenyloxycarbonyloxy)ethyl 5-(N-acetylamino)-3-(N-acetyl-N-methylamino)-2,4,6-triiodobenzenecarboxylate | C(C)(=O)NC=1C(=C(C(=C(C1I)C(=O)OC(C)OC(=O)OCC1=CC=CS1)I)N(C)C(C)=O)I | C20H19I3N2O7S
